US04808711
Synthesis of 2-(2-amino-1,3-thiazol-4-yl)-2-[3-(3,4-dihydroxybenzoyl)carbazoylamino]acetic acid
In 37 ml of 1N aqueous sodium hydroxide solution was dispersed 6.02 g of crystals of 2-(2-amino-1,3-thiazol-4-yl)-2-[3-(3,4-diacetoxybenzoyl)carbazoylamino]acetic acid ethyl ester.hydrochloride containing acetamide according to Reference example 61, and the mixture was stirred at room temperature for 1.5 hours. During stirring, crystals were dissolved completely. To this mixture was added 2N hydrochloric acid while stirring, and pH of the mixture was adjusted to 3.5. After further stirring for 10 minutes, precipitated crystals were collected by filtration, and the residue was washed well with water and vacuum dried over phosphorus pentoxide to obtain 1.36 g (Yield: 50.2%) of pale yellow crystals of the title compound.

reactant | 2-(2-amino-1,3-thiazol-4-yl)-2-[3-(3,4-diacetoxybenzoyl)carbazoylamino]acetic acid ethyl ester.hydrochloride | Cl.C(C)OC(C(NC(NNC(C1=CC(=C(C=C1)OC(C)=O)OC(C)=O)=O)=O)C=1N=C(SC1)N)=O
reactant | acetamide | C(C)(=O)N | C2H5NO
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | sodium hydroxide | 1N, 37 ml | [OH-].[Na+]
product | 2-(2-amino-1,3-thiazol-4-yl)-2-[3-(3,4-dihydroxybenzoyl)carbazoylamino]acetic acid | NC=1SC=C(N1)C(C(=O)O)NC(NNC(C1=CC(=C(C=C1)O)O)=O)=O | C13H13N5O6S
